US07427612B2
(a) 4-(4-Cyano-2,3-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of N-Boc-Piperazine (0.65 g) in DMA (20 mL) was slowly added a solution of 2,3,4-trifluorobenzonitrile (0.49 g) in DMA (10 mL). The reaction mixture was stirred for 2 hours at 80° C. After such time the solvent was removed in vacuo and purified by column chromatography (SiO2) to yield the title compound as white solid (0.76 g).

reactant | N-Boc-Piperazine | 0.65 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2,3,4-trifluorobenzonitrile | 0.49 g | FC1=C(C#N)C=CC(=C1F)F | C7H2F3N
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 4-(4-Cyano-2,3-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.76 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=C(C=C1)C#N)F)F | C16H19F2N3O2
